US06734179B2
0.15 g (0.31 mMol) 4-{4-methoxy-2-[(2-methyl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester were dissolved in 4 ml 2.5 M HCl/MeOH and heated to reflux for 1.5 h. The reaction mixture was concentrated in vacuo and taken up in 5 ml isopropanol. The suspension formed was filtered and the material on the filter was washed with diethyl ether and dried in vacuo. One obtained 80 mg (57%) N-(4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide hydrochloride (1:2) as a white solid. F.p.: 272-277° C.

reactant | 4-{4-methoxy-2-[(2-methyl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 0.31 mMol, 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)C)OC | C25H30N4O4S
reactant | HCl MeOH | 2.5 M, 4 ml | Cl.CO
product | N-(4-methoxy-7-piperidin-4-yl-benzothiazol-2-yl)-2-methyl-isonicotinamide hydrochloride | 80 mg, 57% | Cl.COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)C)=O)C2CCNCC2 | InChI=1S/C20H22N4O2S.ClH/c1-12-11-14(7-10-22-12)19(25)24-20-23-17-16(26-2)4-3-15(18(17)27-20)13-5-8-21-9-6-13;/h3-4,7,10-11,13,21H,5-6,8-9H2,1-2H3,(H,23,24,25);1H
